US04338458
682 g (5.5 M) of trimethylphosphite have been slowly added (21/2 h) to 272 g (2.5 M) of methyl chloroacetate preliminarly heated to 118°. The temperature of the reaction mixture rose at the end of the addition to 125° and was kept at this value for 2 h, whereupon 962 g of raw material was isolated on distillation. A further distillation allowed the obtainment of 344 g (yield 75%) of methyl-dimethylphosphonoacetate having b.p. 125°/8 Torr.

reactant | trimethylphosphite | 5.5 M, 682 g | COP(OC)OC | C3H9O3P
reactant | methyl chloroacetate | 2.5 M, 272 g | ClCC(=O)OC | C3H5ClO2
product | methyl-dimethylphosphonoacetate | 344 g, yield 75% | COC(CP(=O)(OC)OC)=O | C5H11O5P
